US09035093B2
40 grams of powder L-arginine of Ajinomoto C-grade are mixed with 40 grams of deionized water in a 1:1 weight ratio for reaction. After reaction, 60% (w/w) arginine bicarbonate aqueous solution was obtained. The reaction temperatures are 45, 60, and 75° C., and the pressures are 68948 Pa (10 psi), 137895 Pa (20 psi), 275790 Pa (40 psi), 413685 Pa (60 psi), and 551580 Pa (80 psi) as shown on the gauge on the CO2 tank regulator. The thermo-equilibrium time is for 5 minutes and the reaction time is for 10 minutes. Detailed compositions and conditions utilized for the reactions performed at high pressure and temperature are listed in Table 1.

reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | water | 40 grams | O | H2O
product | arginine bicarbonate | 60% | C(O)(O)=O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C6H14N4O2.CH2O3/c7-4(5(11)12)2-1-3-10-6(8)9;2-1(3)4/h4H,1-3,7H2,(H,11,12)(H4,8,9,10);(H2,2,3,4)/t4-;/m0./s1
